US07119088B2
2-(5-Chloro-2-nitrophenoxy)-ethanol
Sodium hydride (125 mg, 60% dispersion in mineral oil, 3.13 mmol) was added to a mixture of 4-chloro-2-fluoronitrobenzene (500 mg, 2.85 mmol) and ethylene glycol (0.18 ml, 3.13 mmol) in 1-methyl-2-pyrrolidinone (5 ml) and the reaction stirred at 80° C. for 18 hours. TLC analysis showed starting material remaining, so additional sodium hydride (114 mg, 60% dispersion in mineral oil, 2.85 mmol) and ethylene glycol (0.82 ml, 14.25 mmol) were added and the reaction stirred at 110° C. for a further 18 hours. The cooled mixture was partitioned between water and dichloromethane, and the layers separated. The organic phase was dried over magnesium sulphate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using ethyl acetate:pentane (50:50) as eluant to afford the title compound as a solid, 290 mg.

reactant | Sodium hydride | 3.13 mmol, 125 mg | [H-].[Na+]
reactant | 4-chloro-2-fluoronitrobenzene | 2.85 mmol, 500 mg | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | ethylene glycol | 3.13 mmol, 0.18 ml | C(CO)O | C2H6O2
reactant | sodium hydride | 2.85 mmol, 114 mg | [H-].[Na+]
reactant | ethylene glycol | 14.25 mmol, 0.82 ml | C(CO)O | C2H6O2
solvent | 1-methyl-2-pyrrolidinone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(5-Chloro-2-nitrophenoxy)-ethanol | ClC=1C=CC(=C(OCCO)C1)[N+](=O)[O-] | C8H8ClNO4
